US08039493B2
In analogy to example 13, step 1, 4-bromothiophene-2-carboxaldehyde was reacted with isobutylamine and sodium borohydride in methanol to give (4-bromo-thiophen-2-ylmethyl)-isobutyl-amine as a colorless oil.

reactant | 4-bromothiophene-2-carboxaldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (4-bromo-thiophen-2-ylmethyl)-isobutyl-amine | BrC=1C=C(SC1)CNCC(C)C | C9H14BrNS
